US04349378
A solution of 1-propanesulphonyl chloride (25 ml) in toluene (50 ml) was added during 15 minutes to a stirred solution of 2,6-dimethylaniline (55 ml) in toluene (400 ml). The mixture was stirred and boiled under reflux for 20 hours, then cooled and filtered. The toluene solution was washed with dilute hydrochloric acid (3 times) and water, then extracted (3 times) with dilute sodium hydroxide solution. The aqueous alkaline solution was acidified with dilute hydrochloric acid, and the product collected by filtration, washed with water and dried. Crystallisation from toluene/60°-80° petrol gave 2',6'-dimethyl-1-propanesulphonanilide as buff coloured crystals (28.0 g, 55%), melting point 72°.

reactant | 1-propanesulphonyl chloride | 25 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | 2,6-dimethylaniline | 55 ml | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2',6'-dimethyl-1-propanesulphonanilide | CC1=C(NS(=O)(=O)CCC)C(=CC=C1)C | C11H17NO2S
